US09193751B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-3-(4-ethoxybenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol
A solution of (2S,3R,4S,5S,6R)-2-(4-chloro-3-(4-ethoxybenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol (7.87 g, crude, ˜17.9 mmol) in dichloromethane (59 mL) and acetonitrile (59 mL) was cooled to −30° C. under argon. Triethylsilane (11.5 mL, 71.6 mmole) was added to the reaction solution followed by addition of boron trifluoride etherate (6.8 mL, 53.7 mmole) so that the temperature didn't exceed −10° C. After the addition was complete the reaction solution was stirred for additional 1.5 h and then quenched with 5% sodium bicarbonate until the pH reached 7.5. The organic phase was separated and the aqueous phase was extracted with ethyl acetate (2×80 mL). The combined organic phases were washed with brine (2×80 mL) and dried over anhydrous sodium sulfate. The sample was concentrated under reduced pressure to provide 6.8 g of the title compound as a pale solid which was used for the next step without purification. Yield: 93%. Purity (LCMS-0013) 2.9 min, 82% (UV); MS ESI (m/z) 409[M+1]+, calc. 408.

reactant | (2S,3R,4S,5S,6R)-2-(4-chloro-3-(4-ethoxybenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | ˜17.9 mmol, 7.87 g | ClC1=C(C=C(C=C1)[C@@]1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC)CC1=CC=C(C=C1)OCC | C22H27ClO7
reactant | Triethylsilane | 71.6 mmole, 11.5 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 53.7 mmole, 6.8 mL | B(F)(F)F.CCOCC
solvent | dichloromethane | 59 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 59 mL | C(C)#N | C2H3N
product | (2S,3R,4R,5S,6R)-2-(4-chloro-3-(4-ethoxybenzyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | 6.8 g, Yield: 93% | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC1=CC=C(C=C1)OCC | C21H25ClO6
